### PR TITLE
[Merged by Bors] - feat(NumberTheory/DirichletCharacter/Basic): add subgroup of characters with conductor coprime to d

### PR DESCRIPTION
**Pull request by xroblot**
We add the following results for Dirichlet characters of level `n`:
- `conductor_(z)pow_dvd`: the conductor of `χ ^ m` divides the conductor of `χ`.
- `conductor_inv`: the conductor of `χ⁻¹` equals the conductor of `χ`.
- `conductor_mul_dvd_lcm_conductor`: the conductor of `χ * ψ` divides `lcm(χ.conductor, ψ.conductor)`.
- `subgroupOfCoprimeConductor`: the set of Dirichlet characters of level `n` whose conductor is coprime to `d` is a subgroup.

---

- [x] depends on: #37108 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 1]
```diff
@@ -341,6 +341,22 @@ theorem mem_conductorSet_iff_conductor_dvd {d : ℕ} [NeZero n] (hd : d ∣ n) :
     d ∈ χ.conductorSet ↔ χ.conductor ∣ d :=
   ⟨conductor_dvd_of_mem_conductorSet χ, fun h ↦ χ.factorsThrough_conductor.mono χ h hd⟩
 
+private theorem conductor_inv_aux (χ : DirichletCharacter R n) :
+    χ⁻¹.conductor ∣ χ.conductor := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: What about a more general pair of (public) lemmas saying `(χ ^ m).conductor ∣ χ.conductor` for natural / integral `m`? This can then be deduced easily (and can be inlined in the proof of `conductor_inv` below), and the general statement looks useful.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean]:
```lean
lemma conductor_pow_dvd (χ : DirichletCharacter R n) (m : ℕ) :
    conductor (χ ^ m) ∣ conductor χ := by
  rcases eq_zero_or_neZero n with rfl | hn
  · simp [conductor_eq_zero_iff_level_eq_zero.mpr]
  rw [← mem_conductorSet_iff_conductor_dvd _ χ.conductor_dvd_level, mem_conductorSet_iff]
  refine ⟨χ.conductor_dvd_level, χ.primitiveCharacter ^ m, ?_⟩
  rw [MonoidHom.map_pow, changeLevel_primitiveCharacter]

lemma conductor_zpow_dvd (χ : DirichletCharacter R n) (m : ℤ) :
    conductor (χ ^ m) ∣ conductor χ := by
  rcases eq_zero_or_neZero n with rfl | hn
  · simp [conductor_eq_zero_iff_level_eq_zero.mpr]
  rw [← mem_conductorSet_iff_conductor_dvd _ χ.conductor_dvd_level, mem_conductorSet_iff]
  refine ⟨χ.conductor_dvd_level, χ.primitiveCharacter ^ m, ?_⟩
  rw [MonoidHom.map_zpow, changeLevel_primitiveCharacter]
```

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 2]
```diff
@@ -341,6 +341,22 @@ theorem mem_conductorSet_iff_conductor_dvd {d : ℕ} [NeZero n] (hd : d ∣ n) :
...
+  rw [← mem_conductorSet_iff_conductor_dvd _ χ.conductor_dvd_level, mem_conductorSet_iff]
+  refine ⟨χ.conductor_dvd_level, χ.primitiveCharacter⁻¹, ?_⟩
+  rw [MonoidHom.map_inv, changeLevel_primitiveCharacter]
+
+/-- The conductor of χ⁻¹ equals the conductor of χ. -/
+theorem conductor_inv (χ : DirichletCharacter R n) :
+    χ⁻¹.conductor = χ.conductor := by
+  refine dvd_antisymm χ.conductor_inv_aux ?_
+  convert conductor_inv_aux χ⁻¹
+  rw [inv_inv]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean]:
```suggestion
theorem conductor_inv (χ : DirichletCharacter R n) :
    χ⁻¹.conductor = χ.conductor := by
  rw [← zpow_neg_one]
  refine dvd_antisymm (conductor_zpow_dvd ..) ?_
  nth_rewrite 1 [← inv_inv χ, ← zpow_neg_one, ← zpow_neg_one]
  exact conductor_zpow_dvd ..
```

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 3]
```diff
@@ -361,6 +377,29 @@ lemma primitive_mul_isPrimitive {m : ℕ} (ψ : DirichletCharacter R m) :
     IsPrimitive (primitive_mul χ ψ) :=
   primitiveCharacter_isPrimitive _
 
+/-- The conductor of `χ * ψ` divides the lcm of the conductors of `χ` and `ψ`. -/
+theorem conductor_mul_dvd_lcm_conductor [NeZero n] (χ ψ : DirichletCharacter R n) :
+    (χ * ψ).conductor ∣ χ.conductor.lcm ψ.conductor := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean]:
```suggestion
theorem conductor_mul_dvd_lcm_conductor (χ ψ : DirichletCharacter R n) :
    (χ * ψ).conductor ∣ χ.conductor.lcm ψ.conductor := by
  rcases eq_zero_or_neZero n with rfl | hn
  · simp [conductor_eq_zero_iff_level_eq_zero.mpr]
```

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: That's a good idea.

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: Thanks for the review!

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 4]
```diff
@@ -341,6 +341,30 @@ theorem mem_conductorSet_iff_conductor_dvd {d : ℕ} [NeZero n] (hd : d ∣ n) :
     d ∈ χ.conductorSet ↔ χ.conductor ∣ d :=
   ⟨conductor_dvd_of_mem_conductorSet χ, fun h ↦ χ.factorsThrough_conductor.mono χ h hd⟩
 
+lemma conductor_pow_dvd (χ : DirichletCharacter R n) (m : ℕ) :
+    conductor (χ ^ m) ∣ conductor χ := by
+  obtain rfl | hn := eq_zero_or_neZero n
+  · simp [conductor_eq_zero_iff_level_eq_zero.mpr]
+  rw [← mem_conductorSet_iff_conductor_dvd _ χ.conductor_dvd_level, mem_conductorSet_iff]
+  refine ⟨χ.conductor_dvd_level, χ.primitiveCharacter ^ m, ?_⟩
+  rw [MonoidHom.map_pow, changeLevel_primitiveCharacter]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: I just noticed that we can remove most of the duplication in these two proofs by moving this after `conductor_zpow_dvd`; then
```lean
lemma conductor_pow_dvd (χ : DirichletCharacter R n) (m : ℕ) :
    conductor (χ ^ m) ∣ conductor χ :=
  zpow_natCast χ m ▸ conductor_zpow_dvd ..
```
does it. (`conductor_zpow_dvd χ m` also works as proof, but this looks a bit like defeq abuse...)

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 5]
```diff
@@ -361,6 +385,31 @@ lemma primitive_mul_isPrimitive {m : ℕ} (ψ : DirichletCharacter R m) :
...
+    Subgroup (DirichletCharacter R n) where
+  carrier := {χ | d.Coprime χ.conductor}
+  mul_mem' hχ hψ := by
+    apply Nat.Coprime.of_dvd_right (conductor_mul_dvd_lcm_conductor _ _)
+    exact (Nat.Coprime.mul_right hχ hψ).coprime_div_right <| Nat.gcd_dvd_mul _ _
+  one_mem' := by simp [conductor_one]
+  inv_mem' hχ := by rwa [Set.mem_setOf, conductor_inv]
+
+@[simp]
+lemma mem_subgroupOfCoprimeConductor [NeZero n] (d : ℕ) (χ : DirichletCharacter R n) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: One could also make `d` and `χ` implicit here (it's an `iff` lemma).

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean (hunk 4 above)
Comment (xroblot) [reply Mathlib/NumberTheory/DirichletCharacter/Basic.lean]: Thanks for the golf

**Comment by MichaelStollBayreuth** [comment]
LGTM now.

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
